US08193359B2
Furo[3,2-c]pyridin-2-ylmethyltriphenylphosphonium bromide hydrochloride
A solution of 2-bromomethylfuro[3,2-c]pyridine hydrochloride (Preparation 5, 2.12 g, 8.5 mmol) and PPh3 (2.24 g, 8.5 mmol) in anhydrous THF-EtOH (1:1, 80 mL) was heated under reflux for 3 d. The solvents were removed under reduced pressure, then the residual solid was triturated with hot THF to furnish the title compound: RT=2.32 min.

reactant | 2-bromomethylfuro[3,2-c]pyridine hydrochloride | 8.5 mmol, 2.12 g | Cl.BrCC1=CC=2C=NC=CC2O1
reactant | PPh3 | 8.5 mmol, 2.24 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF EtOH | 80 mL | C1CCOC1.CCO
product | Furo[3,2-c]pyridin-2-ylmethyltriphenylphosphonium bromide hydrochloride | Cl.[Br-].O1C(=CC=2C=NC=CC21)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C26H21NOP.BrH.ClH/c1-4-10-23(11-5-1)29(24-12-6-2-7-13-24,25-14-8-3-9-15-25)20-22-18-21-19-27-17-16-26(21)28-22;;/h1-19H,20H2;2*1H/q+1;;/p-1
